US07618967B2
Sodium cyanoborohydride (61 mg; 0.97 mmol ) was added to 3-(1H-indol-3-yl)-indan-1-one (200 mg; 0.81 mmol ) and piperidine (344 mg; 4.05 mmol ) in 3 mL methanol and 0.5 mL acetic acid. The reaction mixture was stirred 30 minutes at 150° C. under microwave irradiation using the Emry Optimizer™ instrument. The reaction mixture was poured into water and made basic with 27% aqueous NaOH. The mixture was extracted with ethyl acetate. The organic phase was dried over MgSO4 and concentrated in vacuo. cis-3-(3-Piperidin-1-yl-indan-1-yl)-1H-indole was obtained after flash chromatography (ethyl acetate, heptane, triethylamine, silica gel).

reactant | Sodium cyanoborohydride | 0.97 mmol, 61 mg | C(#N)[BH3-].[Na+]
reactant | 3-(1H-indol-3-yl)-indan-1-one | 0.81 mmol, 200 mg | N1C=C(C2=CC=CC=C12)C1CC(C2=CC=CC=C12)=O | C17H13NO
reactant | piperidine | 4.05 mmol, 344 mg | N1CCCCC1 | C5H11N
reactant | NaOH | [OH-].[Na+]
solvent | methanol | 3 mL | CO | CH4O
solvent | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | cis-3-(3-Piperidin-1-yl-indan-1-yl)-1H-indole | N1(CCCCC1)[C@H]1C[C@H](C2=CC=CC=C12)C1=CNC2=CC=CC=C12 | C22H24N2
